### PR TITLE
[Merged by Bors] - feat: invariance of the characteristic function under Moebius transformations

### PR DESCRIPTION
**Pull request by kebekus**
On the suggestion of @sgouezel, formulate the First Main Theorem of Value Distribution Theory as a statement on the invariance of the characteristic function under postcomposition with automorphisms of the projective line. Historically, this formulation is probably due to Georges Valiron.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/Complex/ValueDistribution/Proximity/Basic.lean [hunk 1]
```diff
@@ -202,31 +207,42 @@ theorem proximity_add_top_le [NormedSpace ℂ E] {f₁ f₂ : ℂ → E} (h₁f
   simpa using proximity_sum_top_le Finset.univ ![f₁, f₂]
     (fun i ↦ by fin_cases i <;> aesop)
 
+
 /--
-The proximity function `f * g` at `⊤` is less than or equal to the sum of the proximity functions of
+The proximity function `f • g` at `⊤` is less than or equal to the sum of the proximity functions of
```
Comment (sgouezel) [inline Mathlib/Analysis/Complex/ValueDistribution/Proximity/Basic.lean]:
```suggestion
The proximity function of `f • g` at `⊤` is less than or equal to the sum of the proximity functions of
```

File: Mathlib/Analysis/Complex/ValueDistribution/Proximity/Basic.lean [hunk 2]
```diff
@@ -202,31 +207,42 @@ theorem proximity_add_top_le [NormedSpace ℂ E] {f₁ f₂ : ℂ → E} (h₁f
...
-      · exact MeromorphicOn.circleIntegrable_posLog_norm h₁f₁.meromorphicOn
-      · exact MeromorphicOn.circleIntegrable_posLog_norm h₁f₂.meromorphicOn
+      · -- should be fun_prop
+        exact MeromorphicOn.circleIntegrable_posLog_norm (fun x a ↦ h₁f₁ x)
+      · -- should be fun_prop
+        exact MeromorphicOn.circleIntegrable_posLog_norm (fun x a ↦ h₁f₂ x)
     _ = proximity f₁ ⊤ + proximity f₂ ⊤ := by simp [proximity]
 
+/--
+The proximity function `f * g` at `⊤` is less than or equal to the sum of the proximity functions of
```
Comment (sgouezel) [inline Mathlib/Analysis/Complex/ValueDistribution/Proximity/Basic.lean]:
```suggestion
The proximity function of `f * g` at `⊤` is less than or equal to the sum of the proximity functions of
```

File: Mathlib/Analysis/Complex/ValueDistribution/Proximity/Basic.lean [hunk 3]
```diff
@@ -240,6 +256,32 @@ theorem proximity_mul_zero_le {f₁ f₂ : ℂ → ℂ} (h₁f₁ : Meromorphic
     _ = (proximity f₁ 0) + (proximity f₂ 0) := by
       rw [proximity_inv, proximity_inv]
 
+/--
+Multiplying a meromorphic function by a nonzero constant `s` changes the proximity function (for
+the value `⊤`) only by a bounded function. More precisely, the difference is bounded by
+`log⁺ ‖s‖ + log⁺ ‖s⁻¹‖`.
+-/
+theorem isBigO_proximity_top_sub_proximity_const_smul_top [NormedSpace ℂ E] {f : ℂ → E} {s : ℂ}
```
Comment (sgouezel) [inline Mathlib/Analysis/Complex/ValueDistribution/Proximity/Basic.lean]: Could you extract a lemma with the precise quantitative bound, and then get the bigO statement as a consequence?

File: Mathlib/Analysis/Complex/ValueDistribution/FirstMainTheorem.lean [hunk 4]
```diff
@@ -164,4 +165,104 @@ theorem isBigO_characteristic_sub_characteristic_shift (h : Meromorphic f) :
...
+if `f₁` and `f₃` both differ from the characteristic function of `f₂` only by bounded functions,
+then `f₁ - f₃` is bounded.
+-/
+private lemma transitivity₁ {f₁ f₃ : ℝ → ℝ} (f₂ : ℂ → ℂ)
+    (h₂₃ : (characteristic f₂ ⊤ - f₃) =O[atTop] (1 : ℝ → ℝ))
+    (h₁₂ : (f₁ - characteristic f₂ ⊤) =O[atTop] (1 : ℝ → ℝ)) :
+    (f₁ - f₃) =O[atTop] (1 : ℝ → ℝ) := by
+  convert h₁₂.add h₂₃
+  simp only [Pi.sub_apply]
+  ring
```
Comment (sgouezel) [inline Mathlib/Analysis/Complex/ValueDistribution/FirstMainTheorem.lean]:
```suggestion
  simpa using! h₁₂.add h₂₃
```

File: Mathlib/Analysis/Complex/ValueDistribution/FirstMainTheorem.lean [hunk 5]
```diff
@@ -164,4 +165,104 @@ theorem isBigO_characteristic_sub_characteristic_shift (h : Meromorphic f) :
...
+private lemma transitivity₂ {f₁ f₂ f₃ : ℂ → ℂ} (h₂₃ : f₂ =ᶠ[codiscrete ℂ] f₃)
+    (h₁₂ : (characteristic f₁ ⊤ - characteristic f₂ ⊤) =O[atTop] (1 : ℝ → ℝ)) :
+    (characteristic f₁ ⊤ - characteristic f₃ ⊤) =O[atTop] (1 : ℝ → ℝ) := by
+  simp_rw [isBigO_iff, eventually_atTop] at *
+  obtain ⟨c, a, hc⟩ := h₁₂
+  use c, max a 1
+  intro r hr
+  simp only [Pi.sub_apply, Pi.one_apply, norm_one, mul_one] at *
+  rw [characteristic_congr_codiscrete h₂₃.symm (by grind)]
+  apply hc r (by aesop)
```
Comment (sgouezel) [inline Mathlib/Analysis/Complex/ValueDistribution/FirstMainTheorem.lean]:
```suggestion
  apply EventuallyEq.trans_isBigO ?_ h₁₂
  filter_upwards [Ioi_mem_atTop 0] with x hx
  simpa using characteristic_congr_codiscrete h₂₃.symm (by grind)
```
You shouldn't need to expand the definition of `atTop` here.

File: Mathlib/Analysis/Complex/ValueDistribution/FirstMainTheorem.lean [hunk 6]
```diff
@@ -164,4 +165,104 @@ theorem isBigO_characteristic_sub_characteristic_shift (h : Meromorphic f) :
...
+
+/--
+Reformulation of the first main theorem: Postcomposing a meromorphic function `f : ℂ → ℂ` with a
+Moebius transformation (=an automorphism of the projective line) changes the characteristic function
+for the value `⊤` only by a bounded function.
+-/
+theorem isBigO_characteristic_sub_characteristic_moebius {a b c d : ℂ} {f : ℂ → ℂ}
+    (hf : Meromorphic f) (hΔ : a * d - b * c ≠ 0) :
+    (characteristic f ⊤ - characteristic ((a • f · + b) / (c • f · + d)) ⊤)
```
Comment (sgouezel) [inline Mathlib/Analysis/Complex/ValueDistribution/FirstMainTheorem.lean]:
```suggestion
    (characteristic f ⊤ - characteristic ((a * f · + b) / (c * f · + d)) ⊤)
```

File: Mathlib/Analysis/Complex/ValueDistribution/FirstMainTheorem.lean [hunk 7]
```diff
@@ -164,4 +165,104 @@ theorem isBigO_characteristic_sub_characteristic_shift (h : Meromorphic f) :
...
+      =O[atTop] (1 : ℝ → ℝ) := by
+  by_cases hc : c = 0
```
Comment (sgouezel) [inline Mathlib/Analysis/Complex/ValueDistribution/FirstMainTheorem.lean:215]: You're giving a pedestrian proof, essentially reproving that PSL(2) is generated by elementary matrices. I wonder if it would be possible to prove this fact separately and reuse it here to give a more transparent argument. Anyway, it's up to you, I'll follow your choice.

File: Mathlib/Analysis/Complex/ValueDistribution/Proximity/Basic.lean (hunk 3 above)
Comment (kebekus) [reply Mathlib/Analysis/Complex/ValueDistribution/Proximity/Basic.lean]: Done.

File: Mathlib/Analysis/Complex/ValueDistribution/FirstMainTheorem.lean (hunk 7 above)
Comment (kebekus) [reply Mathlib/Analysis/Complex/ValueDistribution/FirstMainTheorem.lean:215]: I am sure that a proof following your suggestion is feasible and, in some sense, more conceptual. However, I worry that the substantial overhead will not be worth the gain. Among all the things I worry about, the action of GL(2) on the meromorphic functions is not quite as straightforward as one might hope. In Mathlib, meromorphic functions are honest, complex-valued functions with junk values for poles … and GL(2) does not act naturally on the complex plane (=the target of these functions). As a result, I fear that any work in this direction would almost necessarily include an inconvenient discussion about the proper choice of junk values.

I fear this is getting out of scope, and if you allow, I would stick with the pedestrian proof we have at hand.

**Comment by kebekus** [comment]
@sgouezel Thank you for your prompt reaction!

File: Mathlib/Analysis/Complex/ValueDistribution/FirstMainTheorem.lean (hunk 7 above)
Comment (sgouezel) [reply Mathlib/Analysis/Complex/ValueDistribution/FirstMainTheorem.lean:215]: I agree that's perfectly reasonable.

File: Mathlib/Analysis/SpecialFunctions/Integrability/Log.lean [hunk 8]
```diff
@@ -178,9 +178,6 @@ theorem circleIntegrable_log_norm_factorizedRational {R : ℝ} {c : ℂ} (D : 
   CircleIntegrable.finsum (fun _ ↦
     ((analyticOnNhd_id.sub analyticOnNhd_const).meromorphicOn.circleIntegrable_log_norm).const_smul)
 
-/--
```
Comment (sgouezel) [inline Mathlib/Analysis/SpecialFunctions/Integrability/Log.lean:181]: Not sure why you did remove this comment.

File: Mathlib/Analysis/Complex/ValueDistribution/FirstMainTheorem.lean [hunk 9]
```diff
@@ -164,4 +165,98 @@ theorem isBigO_characteristic_sub_characteristic_shift (h : Meromorphic f) :
...
+/--
+Reformulation of the first main theorem: Postcomposing a meromorphic function `f : ℂ → ℂ` with a
+Moebius transformation (=an automorphism of the projective line) changes the characteristic function
+for the value `⊤` only by a bounded function.
+-/
+theorem isBigO_characteristic_sub_characteristic_moebius {a b c d : ℂ} {f : ℂ → ℂ}
+    (hf : Meromorphic f) (hΔ : a * d - b * c ≠ 0) :
+    (characteristic f ⊤ - characteristic ((a * f · + b) / (c * f · + d)) ⊤)
+      =O[atTop] (1 : ℝ → ℝ) := by
+  by_cases hc : c = 0
```
Comment (sgouezel) [inline Mathlib/Analysis/Complex/ValueDistribution/FirstMainTheorem.lean:215]: Can you add a sketch of the proof, explaining that this is known for the basic matrices generating SL(2) and so it follows for the whole group, although the proof redoes the argument instead of appealing to the general generation statement because of issues with the junk values and the fact that meromorphic functions take values in C?

**Review by sgouezel — COMMENTED** [review]
bors d+
Thanks!

File: Mathlib/Analysis/SpecialFunctions/Integrability/Log.lean (hunk 8 above)
Comment (kebekus) [reply Mathlib/Analysis/SpecialFunctions/Integrability/Log.lean:181]: An embarrassing mishap with my editor. Sorry about that, and thanks for pointing me to the error.

Restored the comment.

File: Mathlib/Analysis/Complex/ValueDistribution/FirstMainTheorem.lean (hunk 9 above)
Comment (kebekus) [reply Mathlib/Analysis/Complex/ValueDistribution/FirstMainTheorem.lean:215]: Added comment, as requested.

**Comment by kebekus** [comment]
@sgouezel Thank you for your help!

bors r+
